US08895313B2
2-Hydroxy-4-nitrobenzaldehyde
Prepared as described in the Demethylation section above using 2-methoxy-4-nitrobenzaldehyde (1.0 g, 5.52 mmol) in dry DCM (25 ml) and BBr3 in DCM (1.0 M, 16 ml, 16 mmol) to give the title compound (0.70 g, 78%) as tan plates after recrystallisation from EtOH.

reactant | 2-methoxy-4-nitrobenzaldehyde | 5.52 mmol, 1.0 g | COC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C8H7NO4
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
solvent | BBr3 | B(Br)(Br)Br | BBr3
solvent | DCM | 16 mmol, 1.0 M, 16 ml | C(Cl)Cl | CH2Cl2
product | 2-Hydroxy-4-nitrobenzaldehyde | 0.70 g, 78% | OC1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C7H5NO4
